US06469020B2
4-(1,3,4,9-Tetrahydro-β-carboline-2-sulfonylmethyl)-tetrahydro-pyran-4-carboxylic Acid
2-(4-Methoxycarbonyl-tetrahydro-pyran-4-ylmethanesulfonyl)-1,2,3,4-tetrahydro-β-carboline-9-carboxylic acid 2,2,2-trichloro-ethyl ester (556 mg) and lithium hydroxide monohydrate (206 mg) in tetrahydrofuran (10 ml), methanol (10 ml) and water (10 ml) was heated to reflux for 8 h. The reaction was left to stand at room temperature overnight and then refluxed for a further 4 h. The mixture was evaporated under reduced pressure and the residue dissolved in water (25 ml) and washed with ethyl acetate (2×30 ml). The aqueous was acidified to pH =4 with 5% citric acid solution and extracted with dichloromethane (2×40 ml) followed by ethyl acetate (3×50 ml). The combined extracts were dried (MgSO4) and evaporated under reduced pressure to give the title compound (299 mg, 80%) as a white solid.

reactant | 2-(4-Methoxycarbonyl-tetrahydro-pyran-4-ylmethanesulfonyl)-1,2,3,4-tetrahydro-β-carboline-9-carboxylic acid 2,2,2-trichloro-ethyl ester | 556 mg | ClC(COC(=O)N1C2=CC=CC=C2C=2CCN(CC12)S(=O)(=O)CC1(CCOCC1)C(=O)OC)(Cl)Cl | C22H25Cl3N2O7S
reactant | lithium hydroxide monohydrate | 206 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-(1,3,4,9-Tetrahydro-β-carboline-2-sulfonylmethyl)-tetrahydro-pyran-4-carboxylic Acid | 299 mg, 80% | C1N(CCC=2C3=CC=CC=C3NC12)S(=O)(=O)CC1(CCOCC1)C(=O)O | C18H22N2O5S
